US07186729B2
4-(4-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-4-methoxy-3-methyl-piperidin-3-ol
To a solution of 4-(4-chloro-phenyl)-4-methoxy-3-methyl-piperidin-3-ol (206 mg, 1.24 mmol) in acetonitrile/water (4:1, 20 mL) was added potassium carbonate (171 mg, 1.24 mmol) followed by 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (417 mg, 1.12 mmol). The mixture was stirred at rt 40 h and concentrated. The product residue was partitioned between ethyl acetate and water and the organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by silica gel chromatography (100% methylene chloride−90% methylene chloride/10% methanol gradient) to afford the titled compound (232 mg, 35%) as an off-white solid.

reactant | 4-(4-chloro-phenyl)-4-methoxy-3-methyl-piperidin-3-ol | 1.24 mmol, 206 mg | ClC1=CC=C(C=C1)C1(C(CNCC1)(O)C)OC | C13H18ClNO2
reactant | potassium carbonate | 1.24 mmol, 171 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 1.12 mmol, 417 mg | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | 20 mL | C(C)#N.O
product | 4-(4-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-4-methoxy-3-methyl-piperidin-3-ol | 232 mg, 35% | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)(O)C)OC | C32H37ClN2O4
